US06930120B2
2-(5-Methyl-2-phenethyl-oxazol-4-yl)-ethanol
BH3-THF complex (49 mL of a 1.0 M solution in THF) was added dropwise via addition funnel over 50 min to a solution of (5-methyl-2-phenethyl-oxazol-4-yl)-acetic acid (5.05 g, 20.6 mmol) in THF (35 mL). The reaction mixture was stirred at ambient temperature for 3 h, and then quenched with MeOH (12 mL). After heating at 50° c for 2 h, the reaction mixture was cooled to ambient temperature, and then partitioned between CH2Cl2 and 1N NaOH. The organic phase was washed with brine (1×50 mL), dried over MgSO4 and concentrated to obtain a residue which was purified by column chromatography (500 mL SiO2, 35% EtOAc/hexanes) to provide 3.99 g (84%) of the desired product as a clear, colorless oil. 1H NMR (400 MHz, CDCl3) δ 7.33-7.20 (m, 5H), 3.84 (q, J=5.6 Hz, 2H), 3.06-2.67 (m, 4H), 2.62 (t, J=5.6 Hz, 2H), 2.22 (s, 3H); MS (EI+) 232.19 (M+H); 254.15 (M+H+Na).

reactant | (5-methyl-2-phenethyl-oxazol-4-yl)-acetic acid | 20.6 mmol, 5.05 g | CC1=C(N=C(O1)CCC1=CC=CC=C1)CC(=O)O | C14H15NO3
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 2-(5-Methyl-2-phenethyl-oxazol-4-yl)-ethanol | 3.99 g, 84% | CC1=C(N=C(O1)CCC1=CC=CC=C1)CCO | C14H17NO2
